US07129238B2
In analogy to example 22.1, (RS)-N-(4-cyano-benzyl)-2-(3,5-difluoro-2′-hydroxy-biphenyl-4-yl)-2-ethoxy-acetamide was reacted in a Mitsunobu reaction with 2-benzyloxy-ethanol, diethyl azodicarboxylate and triphenyl phosphine in THF to give (RS)-2-[2′-(2-benzyloxy-ethoxy)-3,5-difluoro-biphenyl-4-yl]-N-(4-cyano-benzyl)-2-ethoxy-acetamide. Yellow oil. MS 557.2 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-(3,5-difluoro-2′-hydroxy-biphenyl-4-yl)-2-ethoxy-acetamide | C(#N)C1=CC=C(CNC(C(OCC)C2=C(C=C(C=C2F)C2=C(C=CC=C2)O)F)=O)C=C1 | C24H20F2N2O3
reactant | 2-benzyloxy-ethanol | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | C1CCOC1 | C4H8O
product | (RS)-2-[2′-(2-benzyloxy-ethoxy)-3,5-difluoro-biphenyl-4-yl]-N-(4-cyano-benzyl)-2-ethoxy-acetamide | C(C1=CC=CC=C1)OCCOC1=C(C=CC=C1)C1=CC(=C(C(=C1)F)C(C(=O)NCC1=CC=C(C=C1)C#N)OCC)F | C33H30F2N2O4
